### PR TITLE
[Merged by Bors] - feat (Mathlib/FieldTheory/RatFunc.lean): add five lemmas about coercions between Hahn or Laurent Series and Rational Functions

### PR DESCRIPTION
**Pull request by faenuccio**
Add five lemmas about coercions between Hahn or Laurent Series and Rational Functions

Co-authored-by: María Inés de Frutos Fernández @mariainesdff 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/RatFunc.lean [hunk 1]
```diff
@@ -1761,6 +1772,28 @@ theorem coe_X : ((X : RatFunc F) : LaurentSeries F) = single 1 1 := by
 set_option linter.uppercaseLean3 false in
 #align ratfunc.coe_X RatFunc.coe_X
 
+theorem single_pow {R : Type _} [Ring R] (n : ℕ) :
```
Comment (awainverse) [inline Mathlib/FieldTheory/RatFunc.lean:1775]: In two of these three theorems, `single_pow` and `single_zpow`, the left side is an expression `single a b`, and the right side has other functions applied. In `single_inv`, this convention is reversed.
Should there be a convention, possibly even for `simp`, where the expression of the form `single a b` is either consistently the LHS or consistently the RHS?

File: Mathlib/FieldTheory/RatFunc.lean [hunk 2]
```diff
@@ -181,6 +181,7 @@ section IsDomain
 
 variable [IsDomain K]
 
+  --⟨algebraMap _ _⟩
```
Comment (awainverse) [inline Mathlib/FieldTheory/RatFunc.lean:184]: Is this comment useful?

**Review by awainverse — COMMENTED** [review]
Looks good, one small convention question.

File: Mathlib/FieldTheory/RatFunc.lean [hunk 3]
```diff
@@ -814,9 +815,11 @@ instance (R : Type*) [CommSemiring R] [Algebra R K[X]] : Algebra R (RatFunc K) w
         ofFractionRing_mul, IsLocalization.mul_mk'_eq_mk'_of_mul, Algebra.smul_def]
   commutes' c x := mul_comm _ _
 
+instance : Coe (Polynomial K) (RatFunc K) := ⟨fun P ↦ algebraMap _ _ P⟩
+
 variable {K}
 
-theorem mk_one (x : K[X]) : RatFunc.mk x 1 = algebraMap _ _ x :=
+theorem mk_one (x : K[X]) : RatFunc.mk x 1 = algebraMap _ _ x := by
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/RatFunc.lean:822]: Why adding the `by`?

File: Mathlib/FieldTheory/RatFunc.lean [hunk 4]
```diff
@@ -1694,11 +1697,19 @@ theorem coe_apply : coeAlgHom F f = f :=
...
+  erw [RatFunc.coe_def, RatFunc.coeAlgHom, liftAlgHom_apply, RatFunc.num_algebraMap,
+    RatFunc.denom_algebraMap P, map_one, div_one]
+  rfl
+
 @[simp, norm_cast]
 theorem coe_zero : ((0 : RatFunc F) : LaurentSeries F) = 0 :=
   (coeAlgHom F).map_zero
 #align ratfunc.coe_zero RatFunc.coe_zero
 
+theorem coe_ne_zero {f : Polynomial F} : f ≠ 0 → (↑f : PowerSeries F) ≠ 0 := by
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/RatFunc.lean:1710]: Is there a reason `f \neq 0` is not a variable?

File: Mathlib/FieldTheory/RatFunc.lean [hunk 5]
```diff
@@ -1761,6 +1772,28 @@ theorem coe_X : ((X : RatFunc F) : LaurentSeries F) = single 1 1 := by
...
 
+theorem single_pow {R : Type _} [Ring R] (n : ℕ) :
+    single (n : ℤ) (1 : R) = single (1 : ℤ) 1 ^ n := by
+  induction' n with n h_ind
+  · simp only [Nat.zero_eq, Int.ofNat_eq_coe, zpow_zero]
+    rfl
+  · rw [← Int.ofNat_add_one_out, pow_succ', ← h_ind, HahnSeries.single_mul_single, one_mul,
+      add_comm]
+
+theorem single_inv (d : ℤ) (α : F) (hα : α ≠ 0) :
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/RatFunc.lean:1783]:
```suggestion
theorem single_inv (d : ℤ) {α : F} (hα : α ≠ 0) :
```

File: Mathlib/FieldTheory/RatFunc.lean (hunk 4 above)
Comment (faenuccio) [reply Mathlib/FieldTheory/RatFunc.lean:1710]: Basically that I never remember what is prefered. I have changed it (is it better?)

File: Mathlib/FieldTheory/RatFunc.lean (hunk 3 above)
Comment (faenuccio) [reply Mathlib/FieldTheory/RatFunc.lean:822]: Old tentive thats stayed there, thanks for the catch.

File: Mathlib/FieldTheory/RatFunc.lean (hunk 2 above)
Comment (faenuccio) [reply Mathlib/FieldTheory/RatFunc.lean:184]: No! Good catch, thanks.

File: Mathlib/FieldTheory/RatFunc.lean (hunk 1 above)
Comment (faenuccio) [reply Mathlib/FieldTheory/RatFunc.lean:1775]: Good point. I do not know about other parts of the library, but at least I have aligned them here.

Comment (Vierkantor) [reply Mathlib/FieldTheory/RatFunc.lean:1774]: I agree with the direction that you have aligned them to. Basically, we should see `single` as a homomorphism and try to make its arguments smaller.

File: Mathlib/FieldTheory/RatFunc.lean [hunk 6]
```diff
@@ -814,6 +814,8 @@ instance (R : Type*) [CommSemiring R] [Algebra R K[X]] : Algebra R (RatFunc K) w
         ofFractionRing_mul, IsLocalization.mul_mk'_eq_mk'_of_mul, Algebra.smul_def]
   commutes' c x := mul_comm _ _
 
+instance : Coe (Polynomial K) (RatFunc K) := ⟨fun P ↦ algebraMap _ _ P⟩
```
Comment (Vierkantor) [inline Mathlib/FieldTheory/RatFunc.lean:817]: Could you define a separate function? That's required for the `@[coe]` annotation which we need for certain tactics. Something like (untested):
```suggestion
@[coe]
def coePolynomial (P : Polynomial K) : RatFunc K := algebraMap _ _ P

instance : Coe (Polynomial K) (RatFunc K) := ⟨coePolynomial⟩
```

File: Mathlib/FieldTheory/RatFunc.lean [hunk 7]
```diff
@@ -1694,11 +1696,19 @@ theorem coe_apply : coeAlgHom F f = f :=
   rfl
 #align ratfunc.coe_apply RatFunc.coe_apply
 
+theorem coe_coe (P : Polynomial F) : (P : LaurentSeries F) = (P : RatFunc F) := by
+  erw [RatFunc.coe_def, RatFunc.coeAlgHom, liftAlgHom_apply, RatFunc.num_algebraMap,
+    RatFunc.denom_algebraMap P, map_one, div_one]
+  rfl
```
Comment (Vierkantor) [inline Mathlib/FieldTheory/RatFunc.lean:1702]: A proof without `erw`/`rfl` so better resistant against library changes:
```suggestion
  simp [RatFunc.coe_def]
```

File: Mathlib/FieldTheory/RatFunc.lean [hunk 8]
```diff
@@ -1761,6 +1771,30 @@ theorem coe_X : ((X : RatFunc F) : LaurentSeries F) = single 1 1 := by
...
+
+
+theorem single_zpow (n : ℤ) :
+    single (n : ℤ) (1 : F) = single (1 : ℤ) 1 ^ n := by
+  induction' n with n_pos n_neg
+  · apply single_pow
+  · rw [Int.negSucc_coe, Int.ofNat_add, Nat.cast_one, ← inv_one,
+      single_inv (n_neg + 1 : ℤ) one_ne_zero, zpow_neg, ← Nat.cast_one, ← Int.ofNat_add,
+      Nat.cast_one, inv_inj, zpow_natCast, single_pow, inv_one]
+
```
Comment (Vierkantor) [inline Mathlib/FieldTheory/RatFunc.lean:1797]: All of these are only about `HahnSeries`, right? Could you move them to an appropriate file in `RingTheory/HahnSeries`?

**Review by Vierkantor — COMMENTED** [review]
General remark, not for this PR: should we split this file? It's getting quite long and diverse...

File: Mathlib/FieldTheory/RatFunc.lean (hunk 6 above)
Comment (faenuccio) [reply Mathlib/FieldTheory/RatFunc.lean:817]: Done (and it worked)

File: Mathlib/FieldTheory/RatFunc.lean (hunk 1 above)
Comment (faenuccio) [reply Mathlib/FieldTheory/RatFunc.lean:1774]: Taken the first one.

File: Mathlib/FieldTheory/RatFunc.lean (hunk 7 above)
Comment (faenuccio) [reply Mathlib/FieldTheory/RatFunc.lean:1702]: If you're speaking about the proof of `coe_coe`, the nice `simp [RatFunc.coe_def]` proof does not work for me...

Comment (Vierkantor) [reply Mathlib/FieldTheory/RatFunc.lean:1702]: Hm, it worked for me... Maybe you also need to unfold the new `coePolynomial` definition in `simp`?

Comment (faenuccio) [reply Mathlib/FieldTheory/RatFunc.lean:1702]: Yep! Good catch.

File: Mathlib/FieldTheory/RatFunc.lean (hunk 8 above)
Comment (faenuccio) [reply Mathlib/FieldTheory/RatFunc.lean:1797]: I would be happy to do so, but I think this is somewhat connected to your comment about splitting the file (which I agree with). My main question comes from the fact that Laurent series are defined as an abbreviation of Hahn Series for the monoid Z and so I tend to consider that everything pertaining to Laurent series actually has to do to Hahn ones. Would it be possible to 
1. Merge this PR as it is (modulo other remarks about proofs/naming/etc)
2. We discuss the rationale beyond splitting this and possibly other files touching Laurent series
3. I open a new PR where I split the file?

**Comment by faenuccio** [comment]
> General remark, not for this PR: should we split this file? It's getting quite long and diverse...

I fully agree and have addressed this point in my final comment about moving some results to the Hahn series file.

File: Mathlib/FieldTheory/RatFunc.lean (hunk 8 above)
Comment (Vierkantor) [reply Mathlib/FieldTheory/RatFunc.lean:1798]: Okay, sounds good to me!

**Review by Vierkantor — APPROVED** [review]
Thanks for your changes, it's looking good to me. I think since you've addressed all the reviewers' remarks you should be ready to merge this, but I'll give them some time before I hit merge for the final complaints.

**Comment by riccardobrasca** [comment]
Splitting the file seems a good idea, thanks!

bors merge
